US07053107B2
1-Methyl-1H-pyrrole-2-carboxylic acid N′-(1-{2-[3-((E)-2-pyridin-2-yl-vinyl)-1H-indazol4-ylamino]-phenyl}-methanoyl)-hydrazide
A solution of 2-[3-(2-Pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzoic acid (50.0 mg, 0.084 mmol), 1-methyl-1H-pyrrole-2-carboxylic acid hydrazide (23.3 mg, 0.17 mmol), triethylamine(58 μl, 0.42 mmol), dissolved in DMF (0.8 mL), was treated with HATU (48 mg, 0.13 mmol). The mixture was stirred overnight, then purified by reverse phase HPLC yielding 16.1 mg (40%) of the title compound as a yellow solid. 1H NMR (DMSO-d6): δ 10.39 (1H, s), 10.00 (1H, s), 9.52 (1H, s), 8.67 (1H, d, J=2.4), 8.07 (4H, m), 7.77 (1H, d, J=5.2), 7.51 (4H, m), 7.32 (1H, s), 7.09 (1H, d, J=6.3), 6.98 (3H, m), 6.13 (1H, m), 3.87 (3H, s). ESIMS (M+H+):478.1.

reactant | 2-[3-(2-Pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzoic acid | 0.084 mmol, 50.0 mg | N1=C(C=CC=C1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C21H16N4O2
reactant | 1-methyl-1H-pyrrole-2-carboxylic acid hydrazide | 0.17 mmol, 23.3 mg | CN1C(=CC=C1)C(=O)NN | C6H9N3O
reactant | triethylamine | 0.42 mmol, 58 μl | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.13 mmol, 48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-1H-pyrrole-2-carboxylic acid N′-(1-{2-[3-((E)-2-pyridin-2-yl-vinyl)-1H-indazol4-ylamino]-phenyl}-methanoyl)-hydrazide | 16.1 mg, 40% | N1=C(C=CC=C1)/C=C/C1=NNC2=CC=CC(=C12)NC1=C(C=CC=C1)C(=O)NNC(=O)C=1N(C=CC1)C | C27H23N7O2
